US05446146
i) Isopropyl 4-(3,4,5-trimethoxybenzyl)-1-piperazinecarbodithioate (Com. No. 96)
In 2 ml of ethanol was suspended 364 mg of sodium 4-(3,4,5-trimethoxybenzyl)-1-piperazinecarbodithioate, and to the suspension was added 204 mg of isopropyl iodide. The resulting homogeneoussolution was stirred overnight at room temperature. Ethanol was distilled off from the solution, and to the residue were added ether and water. The ether portion was taken out, washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to evaporate the solvent. The residue was purified by silica gel column chromatography to give 270 mg of the desired compound asa colorless oil, yield 70.3%).

reactant | sodium 4-(3,4,5-trimethoxybenzyl)-1-piperazinecarbodithioate | 364 mg | COC=1C=C(CN2CCN(CC2)C(=S)[S-])C=C(C1OC)OC.[Na+]
reactant | isopropyl iodide | 204 mg | C(C)(C)I | C3H7I
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Isopropyl 4-(3,4,5-trimethoxybenzyl)-1-piperazinecarbodithioate | 270 mg, yield 70.3% | COC=1C=C(CN2CCN(CC2)C(=S)SC(C)C)C=C(C1OC)OC | C18H28N2O3S2
